### PR TITLE
[Merged by Bors] - refactor(OnePoint/ProjectiveLine): use Pi instead of Prod

### PR DESCRIPTION
**Pull request by loefflerd**
At the moment `OnePoint.equivProjectivization` identifies the one-point compactification of `K` with the projective space on `K x K`. This is slightly inconvenient since most of mathlib's linear algebra prefers `Fin n → K`. This PR uses the Pi type instead of the product. This is preparatory to adding more material about fixed points of Moebius transformations, etc, in future PR's.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by bjoernkjoshanssen** [comment]
This is probably a good idea... would it make sense to keep both versions `prod` and `Pi`?

**Comment by loefflerd** [comment]
I suppose we could have `equivProjectivizationFinTwo` and `equivProjectivizationProd` existing in parallel, but it would mean duplicating all the API lemmas (and it's likely the API's would get gradually out of sync with time, which would be confusing for later users). 

Do you have a specific thing in mind that's easier with the `Prod` approach, as a reason to keep that one in existence?

File: Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean [hunk 1]
```diff
@@ -40,20 +40,15 @@ section MatrixProdAction
...
-    SMulCommClass (Matrix (Fin 2) (Fin 2) R) S (R × R) :=
-  (LinearEquiv.finTwoArrow R R).symm.smulCommClass _ _
-
-@[simp] lemma Matrix.fin_two_smul_prod (g : Matrix (Fin 2) (Fin 2) R) (v : R × R) :
-    g • v = (g 0 0 * v.1 + g 0 1 * v.2, g 1 0 * v.1 + g 1 1 * v.2) := by
-  simp [Equiv.smul_def, smul_eq_mulVec, Matrix.mulVec_eq_sum]
-
-@[simp] lemma Matrix.GeneralLinearGroup.fin_two_smul_prod {R : Type*} [CommRing R]
-    (g : GL (Fin 2) R) (v : R × R) :
-    g • v = (g 0 0 * v.1 + g 0 1 * v.2, g 1 0 * v.1 + g 1 1 * v.2) := by
```
Comment (dagurtomas) [inline Mathlib/Topology/Compactification/OnePoint/ProjectiveLine.lean:56]: These need deprecations

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
